US08809317B2
Synthesis of Di(2-tolyl)amine
The following were added to a reaction vessel dried as indicated: One mole percent of Pd2(dba)3 (1.39 g, 1.52 mmol) or Pd(dba)2 (1.38 g, 2.4 mmol, 1.4 mol %), 2-(di-tert-butylphosphino)biphenyl (1.09 g, 3.65 mmoles, 2.4 mole %), 2-bromotoluene (40 mL, 332.1 mmol) or 2-chlorotoluene (39 mL, 332.1 mmol), lithium amide (3.47 g, 151.1 mmol, 45 mol %), sodium t-butoxide 29.5 g, 297.7 mmol, 90 mol %), and then toluene (150 mL). The mixture was then heated at 80° C. under argon overnight. Following the reaction period the mixture was allowed to cool to room temperature, and then diluted with diethyl ether and filtered through a pad of celite. The collected filtrate was concentrated in vacuo. Purify of the resulting residue was accomplished by flash silica gel chromatography in hexane to give the desired product as white crystals with a yellow tint (23.4 g, 118.6 mmol, 72% yield).

reactant | 2-(di-tert-butylphosphino)biphenyl | 3.65 mmoles, 1.09 g | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | 2-bromotoluene | 332.1 mmol, 40 mL | BrC1=C(C=CC=C1)C | C7H7Br
reactant | 2-chlorotoluene | 332.1 mmol, 39 mL | ClC1=C(C=CC=C1)C | C7H7Cl
reactant | lithium amide | 151.1 mmol, 3.47 g | [NH2-].[Li+]
reactant | sodium t-butoxide | 297.7 mmol, 29.5 g | CC(C)([O-])C.[Na+]
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | Pd2(dba)3 | 1.52 mmol, 1.39 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | Pd(dba)2 | 2.4 mmol, 1.38 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | Di(2-tolyl)amine | 72% yield | C1(=C(C=CC=C1)NC1=C(C=CC=C1)C)C | C14H15N
